US09085516B2
Preparation of 2-(3,3-dimethylcyclohexyl)-4-methylpentan-2-ol
The protocol of example 1 is carried out again with 1-bromo-2-methylpropane replacing bromoethane, and herbac replacing dehydroherbac.

reactant | 1-bromo-2-methylpropane | BrCC(C)C | C4H9Br
reactant | herbac | CC(=O)C1CCCC(C1)(C)C | C10H18O
product | 2-(3,3-dimethylcyclohexyl)-4-methylpentan-2-ol | CC1(CC(CCC1)C(C)(CC(C)C)O)C | C14H28O
